US08039460B2
Step B: tert-Butyl [(3R,6S)-1-acetyl-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate
Triethylamine (1.29 mL, 9.25 mmol) was added to a solution of tert-butyl [(3R,6S)-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate (0.65 g, 1.85 mmol) in dichloromethane (20 mL) at 0° C. Acetic anhydride (0.53 mL, 5.55 mmol) was added and the mixture was allowed to warm to ambient temperature. After 16 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (99% dichloromethane/ethyl acetate→70% dichloromethane/ethyl acetate) gave the title compound (144 mg). MS 394.1 (M+1).

reactant | Triethylamine | 9.25 mmol, 1.29 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl [(3R,6S)-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | 1.85 mmol, 0.65 g | C(#N)C1NC[C@@H](CC[C@H]1NC(OC(C)(C)C)=O)C1=C(C(=CC=C1)F)F | C18H23F2N3O2
reactant | Acetic anhydride | 5.55 mmol, 0.53 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl [(3R,6S)-1-acetyl-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | 144 mg | C(C)(=O)N1C([C@@H](CC[C@H](C1)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O)C#N | C20H25F2N3O3
